US07645771B2
1-(8-Benzyl-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole
7.7 g (25.08 mmol) N-(8-benzyl-8-azabicyclo[3.2.1]oct-3-yl)benzene-1,2-diamine was refluxed in 200 ml of 1,1,1-triethoxyethane for 18 hrs. The mixture was cooled to ambient temperature and the solvent was then removed. The residue was dissolved in toluene and 1.8 g (9.47 mmol) of p-toluenesulfonic acid was added and the reaction mixture was heated to reflux while stirring for 18 hrs. The mixture was cooled to ambient temperature and filtered off solid and removed toluene under reduced pressure. The crude product was purified by flash column chromatography with 5% methanol and 0.5% ammonium hydroxide in dichloromethane on silica gel. 2.2 g of the product was recovered as a yellow residue.

reactant | N-(8-benzyl-8-azabicyclo[3.2.1]oct-3-yl)benzene-1,2-diamine | 25.08 mmol, 7.7 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)NC=2C(=CC=CC2)N | C20H25N3
reactant | p-toluenesulfonic acid | 9.47 mmol, 1.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,1,1-triethoxyethane | 200 ml | C(C)OC(C)(OCC)OCC | C8H18O3
product | 1-(8-Benzyl-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | C(C1=CC=CC=C1)N1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C22H25N3
